US06268387B1
Step A: 4-Methyl-3-nitro-N-phenyl-benzamide
Oxalyl chloride (3 mL, 35 mmol) was added dropwise to a stirred solution of 3-nitro-4-methylbenzoic acid (5.0 g, 28 mmol) in a mixture of tetrahydrofuran or dichloromethane (125 mL) and dimethylformamide (1/2 mL) under N2 at ice bath temperature. The mixture was allowed to warm to room temperature. After 1 hour, the solvent was removed by rotary evaporator under reduced pressure. The residue was redissolved in fresh tetrahydrofuran (100 mL) and recooled to ice bath temperature under N2, while a solution of aniline (5.2 g, 56 mmol) in tetrahydrofuran (25 mL) was added dropwise. After 16 hours of stirring at room temperature, the mixture was concentrated to half-volume by rotary evaporator and the residue stirred in water (200 mL). After several hours, the precipitate was filtered off, rinsed three times with water, and dried to afford the product (6.8 g); m.p. 147-148° C.

reactant | Oxalyl chloride | 35 mmol, 3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-nitro-4-methylbenzoic acid | 28 mmol, 5.0 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1C | C8H7NO4
reactant | dichloromethane | 125 mL | ClCCl | CH2Cl2
reactant | aniline | 56 mmol, 5.2 g | NC1=CC=CC=C1 | C6H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 1/2 mL | CN(C=O)C | C3H7NO
product | 4-Methyl-3-nitro-N-phenyl-benzamide | 6.8 g | CC1=C(C=C(C(=O)NC2=CC=CC=C2)C=C1)[N+](=O)[O-] | C14H12N2O3
